US06048866
N-{[4,5-Dimethoxy-3-(2-pyrrolin-1-yl)ethoxy]phenyl)-4-(4-fluorophenylsulphanyl) pyrimidine-2-amine dihydrochloride
N-[4,5-Dimethoxy-3-(2-hydroxyethoxy)phenyl]-4-(4-fluorophenylsulphanyl)pyrimidine-2-amine was prepared by treating a solution of N-(4,5-dimethoxy-3-hydroxyphenyl)-4-(4-fluorophenylsulphanyl)-2-pyrimidineamine (2.23 g, 60 mmol) and ethyl carbonate (0.79 g, 90 mmol) in dry DMF (25 ml) with potassium carbonate (1.66 h, 120 mmol) and heating the resulting mixture at 100° for 16 h. The reaction was concentrated under reduced pressure and the residue partitioned between ethly acetate and water. The aqueous layer was re-extracted with ethyl acetate, the combined organic layers dried (MgSO4) and evaporated to give a residue which was subjected to column chromatography [silica; 20% hexane-ethyl acetate] to give the desired compound (1.36 g) as a white foam. δH (d6DMSO) 9.48 (1H, s), 8.17 (1H, d, J 5.3 Hz), 7.69 (2H, m), 7.36 (2H, t, J 8.8 Hz), 7.08 (2H, m), 6.15 (1H, d, J 5.3 Hz), 4.81 (1H, t, J 5.2 Hz), 3.92 (2H, t, J 5.2 Hz), 3.73 (2H, m), 3.71 (3H, s) and 3.64 (3H, s).

reactant | N-(4,5-dimethoxy-3-hydroxyphenyl)-4-(4-fluorophenylsulphanyl)-2-pyrimidineamine | 60 mmol, 2.23 g | COC1=C(C=C(C=C1OC)NC1=NC=CC(=N1)SC1=CC=C(C=C1)F)O | C18H16FN3O3S
reactant | ethyl carbonate | 90 mmol, 0.79 g | C(OCC)([O-])=O
reactant | potassium carbonate | 120 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | N-[4,5-Dimethoxy-3-(2-hydroxyethoxy)phenyl]-4-(4-fluorophenylsulphanyl)pyrimidine-2-amine | COC1=C(C=C(C=C1OC)NC1=NC=CC(=N1)SC1=CC=C(C=C1)F)OCCO | C20H20FN3O4S
